US07625902B2
In analogy to example 66, step 4, (S)-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-1-(naphthalene-1-sulfonyl)-imidazolidin-2-one and propyl iodide were reacted in the presence of sodium iodide in a pressure tube to yield (S)-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-1-(naphthalene-1-sulfonyl)-3-propyl-imidazolidin-2-one as a white solid. MS: 535.0 ([M+H])

reactant | (S)-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-1-(naphthalene-1-sulfonyl)-imidazolidin-2-one | CC1=C(C=C(C=C1)C)N1CCN(CC1)C(=O)[C@H]1NC(N(C1)S(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C26H28N4O4S
reactant | propyl iodide | C(CC)I | C3H7I
reactant | sodium iodide | [I-].[Na+]
product | (S)-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-1-(naphthalene-1-sulfonyl)-3-propyl-imidazolidin-2-one | CC1=C(C=C(C=C1)C)N1CCN(CC1)C(=O)[C@H]1N(C(N(C1)S(=O)(=O)C1=CC=CC2=CC=CC=C12)=O)CCC | C29H34N4O4S
